US05053223
Magnesium (0.54 g, 22.2 mmol) is etched with iodine and 0.5 ml of a solution of 93% 1-chloro-2,6-dimethyldecane (4.5 g, 20.7 mmol) in tetrahydrofuran (4 ml) is added at 60° C. After the reaction has been started by addition of a drop of 1,2-dibromoethane the rest of the solution is added dropwise. The mixture is diluted with tetrahydrofuran (4 ml) and stirred under reflux for 2.5 h, then cooled to -20° C. 1-Bromopentane (3.8 g, 25 mmol) in tetrahydrofurane (4 ml) and 0.5M dilithium tetrachlorocuprate in tetrahydrofuran (3 ml) are added, and the mixture is stirred at -20° C. for 2 h, at 0° C. for 2 h, and at room temperature overnight. Subsequent treatment with ammonium chloride solution and distillation gives 3.22 g of 5,9-dimethylpentadecane, a yield of 64.8% based on the amount of C12 -alkyl chloride.

reactant | Magnesium | 22.2 mmol, 0.54 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 1-chloro-2,6-dimethyldecane | 20.7 mmol, 4.5 g | ClCC(CCCC(CCCC)C)C | C12H25Cl
reactant | 1,2-dibromoethane | BrCCBr | C2H4Br2
reactant | 1-Bromopentane | 25 mmol, 3.8 g | BrCCCCC | C5H11Br
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofurane | 4 ml | O1CCCC1 | C4H8O
solvent | dilithium tetrachlorocuprate | 0.5M | [Li+].[Li+].[Cl-].[Cl-].[Cl-].[Cl-].[Cu+2]
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 5,9-dimethylpentadecane | 3.22 g, yield of 64.8% | CC(CCCC)CCCC(CCCCCC)C | C17H36
